US06713474B2
Sodium triacetoxyborohydride (264 mg) was added to a mixture of 2-[(4-(4-chloro-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]benzaldehyde (330 mg) and diethylamine (121 mg) in 1,2-dichloroethane in a vial (5 ml) and the vial septum sealed. The mixture was stirred at ambient temperature for 20 hours then quenched with saturated aqueous sodium bicarbonate solution (5 ml). The mixture was extracted with ethyl acetate to give 2-[4-(4-chloro-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d)pyrimidin-5-yl)phenoxy]-N,N-diethylbenzylamine.

reactant | Sodium triacetoxyborohydride | 264 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (4-(4-chloro-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]benzaldehyde | 330 mg | ClC=1C2=C(N=CN1)N(C=C2C2=CC=C(OC1=C(C=O)C=CC=C1)C=C2)C2COCC2 | C23H18ClN3O3
reactant | diethylamine | 121 mg | C(C)NCC | C4H11N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-[4-(4-chloro-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d)pyrimidin-5-yl)phenoxy]-N,N-diethylbenzylamine | ClC=1C2=C(N=CN1)N(C=C2C2=CC=C(OC1=C(CN(CC)CC)C=CC=C1)C=C2)C2COCC2 | C27H29ClN4O2
